US04411911
A 1.0 g quantity of 1-diazo-2-hexanone is dissolved in 50 ml of ether, and 2.5 g of p-methoxybenzenesulfonic acid is slowly added to the solution at room temperature. The same procedure as in Example 1 is thereafter repeated to afford 1.6 g of 2-oxahexyl-p-methoxybenzene sulfonate in the form of a colorless transparent oil (Compound 35). Yield 70.3%.

reactant | 1-diazo-2-hexanone | [N+](=[N-])=CC(CCCC)=O | C6H10N2O
reactant | p-methoxybenzenesulfonic acid | 2.5 g | COC1=CC=C(C=C1)S(=O)(=O)O | C7H8O4S
reactant | ether | 50 ml | CCOCC | C4H10O
product | 2-oxahexyl-p-methoxybenzene sulfonate | 1.6 g, Yield 70.3% | C(OCCCC)OS(=O)(=O)C1=CC=C(C=C1)OC | C12H18O5S
